US07893267B2
100 mg (0.3 mmol) of 2-[(isoquinoline-3-carbonyl)-amino]-6-ethoxy-1H-benzoimidazole-4-carboxylic acid and 200 mg (0.53 mmol) of HBTU were dissolved in 1.0 mL of DMF and 0.5 mL of DIEA and reacted with 132 mg (1.0 mmol) of 2-aminoimidazole sulfate as described in general procedure A. Upon completion, the reaction was diluted with brine. The resulting solid was filtered, washed with water and EtOAc, and dried under vacuum to produce 30 mg (23%) of isoquinoline-3-carboxylic acid [5-ethoxy-7-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide. LCMS: 443 (M+1)+.

reactant | 2-[(isoquinoline-3-carbonyl)-amino]-6-ethoxy-1H-benzoimidazole-4-carboxylic acid | 0.3 mmol, 100 mg | C1=NC(=CC2=CC=CC=C12)C(=O)NC1=NC2=C(N1)C=C(C=C2C(=O)O)OCC | C20H16N4O4
reactant | HBTU | 0.53 mmol, 200 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-aminoimidazole sulfate | 1.0 mmol, 132 mg | S(=O)(=O)(O)O.NC=1NC=CN1
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | isoquinoline-3-carboxylic acid [5-ethoxy-7-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 30 mg, 23% | C(C)OC1=CC2=C(NC(=N2)NC(=O)C=2N=CC3=CC=CC=C3C2)C(=C1)C(NC=1NC=CN1)=O | C23H19N7O3
